US05591737
To a suspension of 0.380 gm of lithium aluminum hydride in 15 ml of dry tetrahydrofuran is carefully added a solution of the D-proline amide (prepared in B above) in 10 ml tetrahydrofuran. The mixture is refluxed for 2 hrs then cooled and quenched with 2 ml of 2.5N sodium hydroxide. The mixture is filtered through a pad of sodium sulfate and the filter cake washed with 2×50 ml of ether. The combined filtrates are concentrated in vacuo to yield 0.80 gm of desired 2-(1-pyrrolidinylmethyl) pyrrolidine.

reactant | lithium aluminum hydride | 0.380 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | D-proline amide | N1[C@@H](C(=O)N)CCC1 | C5H10N2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(1-pyrrolidinylmethyl) pyrrolidine | 0.80 gm | N1(CCCC1)CC1NCCC1 | C9H18N2
